US05597826
7-(5-Nitro-2-pyridylamino)-1-(4-methyl-1-piperazinyl)-naphthalene
A mixture of 7-amino-1-(4-methyl-1-piperazinyl)-naphthalene (0.212 g, 0.88 mmol), 5-nitro-2-chloropyridine (0.314 g, 1.98 mmol), and 4-dimethylaminopyridine (0.085 g, 0.7 mmol) in dry DMF (2 mL) was refluxed 8 hours. The solvent was removed in vacuo and the residue was taken up in methylene chloride. The organic phase was washed with saturated 0.5N NaOH and brine, dried over calcium sulfate and concentrated. The residue was flash chromatographed on silica gel (1×4 inches). Gradient elution with from 50% to 90% ethyl acetate/hexane gave an unweighed forerun. Continued elution with ethyl acetate gave 0.136 g of orange oil. Recrystallization from isopropanol followed by recrystallization from nitromethane gave 0.005 g (1.4%) of the title product as orange crystals: mp 121°-125° C. Analysis calculated for C20H21N5O2 ·H2O; C, 62.98; H, 6.08; N, 18.36. Found: C, 62.86; H, 5.84; N, 18.13.

reactant | 7-amino-1-(4-methyl-1-piperazinyl)-naphthalene | 0.88 mmol, 0.212 g | NC1=CC=C2C=CC=C(C2=C1)N1CCN(CC1)C | C15H19N3
reactant | 5-nitro-2-chloropyridine | 1.98 mmol, 0.314 g | [N+](=O)([O-])C=1C=CC(=NC1)Cl | C5H3ClN2O2
catalyst | 4-dimethylaminopyridine | 0.7 mmol, 0.085 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 7-(5-Nitro-2-pyridylamino)-1-(4-methyl-1-piperazinyl)-naphthalene | 0.136 g | [N+](=O)([O-])C=1C=CC(=NC1)NC1=CC=C2C=CC=C(C2=C1)N1CCN(CC1)C | C20H21N5O2
